data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2298,2547,[CH3:15][O:16][C:17](=[O:18])[C:19]([C:20]([CH3:21])=[O:22])=[N+:23]([CH3:24])[C-:25]([C:26]([CH3:27])=[O:28])[C:29](=[O:30])[O:31][CH3:32].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:25]([C:26]([CH3:27])=[O:28])([C:29](=[O:30])[O:31][CH3:32])[N:23]([CH3:24])[C:19]3([C:17]([O:16][CH3:15])=[O:18])[C:20]([CH3:21])=[O:22],water,298.15,23.89835646884611,-38.41910804275171
1341,1471,[CH3:18][C:19](=[O:20])[N:21]=[N+:22]([CH3:23])[N-:24][C:25]#[N:26].[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([F:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([F:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[N:21]([C:19]([CH3:18])=[O:20])[N:22]([CH3:23])[N:24]2[C:25]#[N:26],water,298.15,21.98079848065977,-33.67312704787338
765,827,[CH3:11][C:12]#[N+:13][C-:14]([CH3:15])[C:16](=[O:17])[NH:18][CH3:19].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([Br:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:12]([CH3:11])=[N:13][C:14]2([CH3:15])[C:16](=[O:17])[NH:18][CH3:19],water,298.15,10.938844656929843,-57.03068264534421
708,769,[CH3:13][O:14][C:15](=[O:16])[C:17]([CH3:18])=[N+:19]([CH3:20])[O-:21].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:17]([C:15]([O:14][CH3:13])=[O:16])([CH3:18])[N:19]([CH3:20])[O:21]2,water,298.15,21.187723233912905,-10.65636354395495
180,197,[CH3:12][C:13]#[N+:14][CH-:15][C:16]([CH3:17])=[O:18].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[CH:15]([C:16]([CH3:17])=[O:18])[N:14]=[C:13]3[CH3:12],water,298.15,12.728400489104876,-55.07732507800368
378,409,[CH3:11][NH:12][C:13](=[O:14])[N-:15][N+:16]#[C:17][C:18]([CH3:19])=[O:20].[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([CH3:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[N:15]([C:13]([NH:12][CH3:11])=[O:14])[N:16]=[C:17]2[C:18]([CH3:19])=[O:20],water,298.15,19.32954605935951,-57.12654279491976
2638,2925,[CH3:18][NH:19][C:20](=[O:21])[c:22]1[o:23][c:24](=[O:25])[c-:26](-[c:27]2[cH:28][cH:29][cH:30][cH:31][cH:32]2)[o+:33]1.[CH3:1][O:2][C:3]1([Br:4])[C:5]#[C:6][C:7]([C:8]([CH3:9])=[O:10])([C:11]([CH3:12])=[O:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3]1([Br:4])[C:5]2=[C:6]([C:7]([C:8]([CH3:9])=[O:10])([C:11]([CH3:12])=[O:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:22]1([C:20]([NH:19][CH3:18])=[O:21])[O:23][C:24](=[O:25])[C:26]2([c:27]2[cH:28][cH:29][cH:30][cH:31][cH:32]2)[O:33]1,water,298.15,17.986807580901015,-33.41687016852673
1555,1721,[CH3:18][O:19][C:20](=[O:21])[C-:22]([C:23]#[N:24])[NH+:25]=[CH:26][C:27]#[N:28].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[C:22]([C:20]([O:19][CH3:18])=[O:21])([C:23]#[N:24])[NH:25][CH:26]3[C:27]#[N:28],water,298.15,20.89787341204153,-36.102800987488365
4979,5666,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16]([CH3:17])=[O:18])=[N+:19]([CH3:20])[N-:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:16]([CH3:17])=[O:18])[N:19]([CH3:20])[N:21]2[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,24.14417613914731,-9.543145627022804
4813,5494,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16]([CH3:17])=[O:18])=[N+:19]([CH3:20])[C-:21]([CH3:22])[C:23]([CH3:24])=[O:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:16]([CH3:17])=[O:18])[N:19]([CH3:20])[C:21]2([CH3:22])[C:23]([CH3:24])=[O:25],water,298.15,51.75577874706497,2.1680839246353325
4365,4986,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH2-:15][NH+:16]=[C:17]([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[CH2:15][NH:16][C:17]2([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,24.25698808512919,2.348932016590192
